US07205316B2
1-(2,7-Dimethyl-pyrazolo[1,5-a]pyrimidin-6-yl)-ethanone
A solution of 3-dimethylaminomethylene-pentane-2,4-dione (4 g, 25.8 mmol) and 3-amino-5-methylpyrazole (2.45 g, 24.5 mmol) in ethanol (50 mL) was heated to reflux for 2 hrs, then cooled to ambient temperature and stirred over night. The solid precipitate was collected by filtration and washed with cold ethanol (50 mL). The solid was dried under vacuum to provided 3.8 g of the title compound. 1H NMR (300 MHz, CD3OD) δ 2.52 (s, 3 H), 2.68 (s, 3 H), 3.07 (s, 3 H), 6.55 (s, 1 H), 6.87 (s, 1 H); MS (DCl/NH3) m/z 190 (M+H)+.

reactant | 3-dimethylaminomethylene-pentane-2,4-dione | 25.8 mmol, 4 g | CN(C)C=C(C(C)=O)C(C)=O | C8H13NO2
reactant | 3-amino-5-methylpyrazole | 24.5 mmol, 2.45 g | NC1=NNC(=C1)C | C4H7N3
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 1-(2,7-Dimethyl-pyrazolo[1,5-a]pyrimidin-6-yl)-ethanone | 3.8 g | CC1=NN2C(N=CC(=C2C)C(C)=O)=C1 | C10H11N3O
